US04720500
The procedure is analgous to that described in Example 11, but starting with sodium (2.3 g), 2-chloroacetophenone (15 g) and ethyl formate (11 g). The solid obtained (20 g) is then added to 2,6-diaminopyridine (11 g). The product obtained after hydrolysis and neutralization with sodium hydroxide (21.5 g; m.p. approximately 165° C.) is dissolved in concentrated hydrochloric acid (d=1.19; 100 cc). The precipitate obtained after hydrolysis with distilled water (500 cc) is separated by filtration, washed with 0.5M sodium hydroxide (3×100 cc) followed by distilled water (5×50 cc) and air-dried. 2-Amino-7-(2-chlorophenyl)naphthyridine (11 g), m.p. 193° C., is obtained.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 2-chloroacetophenone | 15 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | ethyl formate | 11 g | C(=O)OCC | C3H6O2
reactant | 2,6-diaminopyridine | 11 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | sodium hydroxide | 21.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 100 cc | Cl | ClH
solvent | water | 500 cc | O | H2O
product | 2-Amino-7-(2-chlorophenyl)naphthyridine | 11 g | NC1=NC2=NC(=CC=C2C=C1)C1=C(C=CC=C1)Cl | C14H10ClN3
